US08710245B2
(a) Synthesis of tert-butyl (6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methylcarbamate
A solution of (6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine (6.3 g, 37.3 mmol, 1 eq), Boc2O (8.9 g, 40.8 mmol, 1.1 eq), and DMAP (10 mg) in THF (50 mL) was stirred at room temperature for 1 hr. The mixture was concentrated and purified by column chromatography to give the desired product.

reactant | (6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine | 37.3 mmol, 6.3 g, 1 eq | S1C=CC=2C(OCCC21)CN | C8H11NOS
reactant | Boc2O | 40.8 mmol, 8.9 g, 1.1 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl (6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methylcarbamate | S1C=CC=2C(OCCC21)CNC(OC(C)(C)C)=O | C13H19NO3S
